US06825188B2
c) (S)-3-Oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
1.0 N LiOH (0.3 mL, 0.3 mmole) was added to a solution of methyl (S)-3-oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (133 mg, 0.27 mmole) in THF (1.5 mL) and H2O (1.2 mL) at 0° C. The mixture was allowed to warm to RT over 18 hr. The mixture was washed with Et2O (2×5 mL) then a mild vacuum was applied to remove residual organic solvents. The aqueous layer was passed through a 0.45 μm Acrodisk filter, then was carefully acidified to pH 6 using 10% HCl in H2O at 0° C. The precipitate was collected, washed with H2O, and dried under vacuum at 50° C. to give the title compound as a white solid (62 mg, 48%): MS (ES) m/e 474 (M+H)+. Anal. Calcd for C28H31N3O4.0.75 H2O: C, 69.05; H, 6.75; N, 8.63. Found: C, 69.05; H, 6.66; N, 8.55.

reactant | LiOH | 0.3 mmole, 1.0 N, 0.3 mL | [Li+].[OH-]
reactant | methyl (S)-3-oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.27 mmole, 133 mg | O=C1N(CC2=C(C[C@H]1CC(=O)OC)C=CC(=C2)OCCCNC2=NC=CC=C2)CCC2=CC=CC=C2 | C29H33N3O4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.2 mL | O | H2O
product | (S)-3-Oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 62 mg, 48% | O=C1N(CC2=C(C[C@H]1CC(=O)O)C=CC(=C2)OCCCNC2=NC=CC=C2)CCC2=CC=CC=C2 | C28H31N3O4
